Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Crohn's disease
 
Major Surgical or Invasive Procedure:
Laparoscopic ileocecectomy

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of Crohn's 
disease. She started on Stelara and was feeling well with 
occasional bloating. She underwent a scope and had a scan that 
demonstrated two tight ileal strictures and was seen by Dr. 
___ surgical evaluation. 

 
Past Medical History:
PMH:
Crohn's disease

PSH:
None
 
Social History:
___
Family History:
Father with atrial fibrillation and HTN. Mother with HTN. No GI 
disease in family.
 
Physical Exam:
Discharge Physical Exam:

98.4, 108/73, 91, 18, 99%/RA
GEN: NAD
HEENT: NCAT, EOMI, anicteric
CV: hemodynamically stable
PULM: normal excursion, no respiratory distress
ABD: soft, appropriately tender around incisions, incisions 
c/d/i
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
 
Pertinent Results:
___ 07:04AM BLOOD WBC-14.0* RBC-3.37* Hgb-9.7* Hct-29.8* 
MCV-88 MCH-28.8 MCHC-32.6 RDW-12.0 RDWSD-38.5 Plt ___
___ 07:04AM BLOOD Glucose-127* UreaN-8 Creat-0.5 Na-137 
K-4.0 Cl-103 HCO3-23 AnGap-11
___ 07:04AM BLOOD Calcium-8.0* Phos-3.5 Mg-1.8
___ 07:04AM BLOOD CRP-34.2*
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
a laparoscopic ileocecectomy. She tolerated the procedure well 
without complications (Please see operative note for further 
details). After a brief and uneventful stay in the PACU, the 
patient was transferred to the floor for further post-operative 
management.
Neuro: Pain was well controlled on Tylenol and tramadol for 
breakthrough pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. She had good 
pulmonary toileting, as early ambulation and incentive 
spirometry were encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was advanced to and tolerated a regular diet. Patient's 
intake and output were closely monitored.
GU: The patient was initially voiding small amounts of urine 
with reports of feeling she did not completely empty her 
bladder. She was started on Flomax and was bladder scanned for 
greater than 600cc and straight cathed for 800cc urine. A 
urinalysis was sent which was noncontributory. Post 
catheterization, the patient was able to void without any 
difficulty or complaints. Urine output was monitored as 
indicated.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. She was encouraged to get up and 
ambulate as early as possible. The patient was having bloody 
bowel movements so lovenox was held. Her bloody bowel movements 
decreased and the patient was instructed to resume lovenox on 
___. 
On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
Post-Surgical Complications During Inpatient Admission:
 [ ] Post-Operative Ileus resolving w/o NGT
 [ ] Post-Operative Ileus requiring management with NGT
 [ ] UTI
 [ ] Wound Infection
 [ ] Anastomotic Leak
 [ ] Staple Line Bleed
 [ ] Congestive Heart failure
 [ ] ARF
 [ ] Acute Urinary retention, failure to void after Foley D/C'd
 [ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
 [ ] DVT
 [ ] Pneumonia
 [ ] Abscess
 [x] None
Social Issues Causing a Delay in Discharge:
 [ ] Delay in organization of ___ services
 [ ] Difficulty finding appropriate rehab hospital disposition.
 [ ] Lack of insurance coverage for ___ services
 [ ] Lack of insurance coverage for prescribed medications.
 [ ] Family not agreeable to discharge plan.
 [ ] Patient knowledge deficit related to ileostomy delaying 
dispo
 [x] No social factors contributing in delay of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Budesonide 3 mg PO DAILY 
2. Ustekinumab 90 mg IV ONCE every seven weeks 
3. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Enoxaparin Sodium 40 mg SC DAILY 
Do not start using until ___ 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*28 
Syringe Refills:*0 
3.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drive or drive while taking 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*18 Tablet Refills:*0 
4.  Budesonide 3 mg PO DAILY  
5.  Ustekinumab 90 mg IV ONCE every seven weeks  
6.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn's disease of small bowel with obstruction 
Multifocal strictures  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after a laparoscopic 
ileocecectomy for surgical management of your Crohn's disease. 
You have recovered from this procedure and you are now ready to 
return home.  
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. However, you may 
have loose stool and passing of small amounts of dark, old 
appearing blood. If you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. While taking narcotic pain medications you are 
at risk for constipation, please take an over the counter stool 
softener such as Colace.
 
You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures.  It is important that 
you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/foul smelling drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. You may shower; pat the incisions dry with 
a towel, do not rub.  If you have steri-strips (the small white 
strips), they will fall off over time, please do not remove 
them. Please do not take a bath or swim until cleared by the 
surgical team.
 
Pain is expected after surgery. This will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 24 
hours or any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while taking Tylenol.  You may 
also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should take a dose of the narcotic pain 
medication tramadol.  Please do not take sedating medications, 
drink alcohol, or drive while taking the narcotic pain 
medication. 

You are being discharged home on Lovenox injections to prevent 
blood clots after surgery. Please start taking this medication 
on ___. You will take this medication for a total of 30 
days (including doses in hospital), please finish the entire 
prescription. Please monitor for any signs of bleeding: fast 
heart rate, bloody bowel movements, abdominal pain, bruising, 
feeling faint or weak. If you have any of these symptoms please 
call our office or seek medical attention immediately. Please 
avoid any contact activity and take extra caution to avoid 
falling while taking Lovenox. 
 
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs and 
go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.   

 
Thank you for allowing us to participate in your care, we wish 
you all the best! 
 
Followup Instructions:
___